US05366989
In 150 ml of methylene chloride was dissolved 15.7 g of ethyl 4-chloro-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxybutyrate. To the solution was dropwise added 8.4 g of 1,8-diazabicyclo[5.4.0]undec-7-ene at 5°-10° C. The mixture was subjected to reaction at the same temperature for 2 hours. The resulting reaction mixture was introduced into 150 ml of water and adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: n-hexane/toluene=2/1) to obtain 11.1 g of oily ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2,2-difluorobutyrate.

reactant | ethyl 4-chloro-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxybutyrate | 15.7 g | ClCC(C(C(=O)OCC)(F)F)(O)C1=C(C=C(C=C1)F)F | C12H11ClF4O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 8.4 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(2,4-difluorophenyl)-3,4-epoxy-2,2-difluorobutyrate | 11.1 g | FC1=C(C=CC(=C1)F)C1(C(C(=O)OCC)(F)F)CO1 | C12H10F4O3
